US09403801B2
Step 3) N-benzyl-1-(2-bromoacetyl)cyclopentane carboxamide
To a solution of 1-acetyl-N-benzylcyclopentane carboxamide (44 g, 179.36 mmol) in EtOH (700 mL) were added NBS (70.22 g, 394.59 mmol) and PTSA (3.5 g, 17.94 mmol). After addition, the reaction mixture was stirred at rt for 48 h and concentrated in vacuo. To the residue was added water (500 mL) and the resulting mixture was extracted with EtOAc (500 mL×3). Then the combined organic phases were washed with saturated Na2S2O3 solution (500 mL×3) and brine (500 mL), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/5) to give the product as a white solid (39.5 g, 68%).

reactant | 1-acetyl-N-benzylcyclopentane carboxamide | 179.36 mmol, 44 g | C(C)(=O)C1(CCCC1)C(=O)NCC1=CC=CC=C1 | C15H19NO2
reactant | NBS | 394.59 mmol, 70.22 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | PTSA | 17.94 mmol, 3.5 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | EtOH | 700 mL | CCO | C2H6O
product | N-benzyl-1-(2-bromoacetyl)cyclopentane carboxamide | 39.5 g, 68% | C(C1=CC=CC=C1)NC(=O)C1(CCCC1)C(CBr)=O | C15H18BrNO2
